US07250440B2
5-Bromo-1-(4-hydroxyphenyl)-2-methyl-1H-indole -3-carbaldehyde oxime
A mixture of 5-bromo-1-(4-hydroxyphenyl)-2-methyl-1H-indole-3-carbaldehyde (0.16 g, 0.5 mmol), hydroxylamine hydrochloride (0.10 g, 1.4 mmol), methanol (10 mL) and pyridine (0.2 mL) was reacted according to the procedure used in Example 4 to afford a white solid (66%): mp 209-211° C.; 1H NMR (DMSO-d6): δ 2.29 (3H, s), 6.92-6.97 (3H, m), 7.20-7.25 (3H, m), 8.19 (1 H, d, J=1.9 Hz), 8.39 (1H, s), 9.94 (1H, br s), 10.76 (1H, s); MS m/z (M+H)+ 345/347 (1 Br). Anal. for C16H13BrN2O2·0.5H2O; Calc'd: C, 54.26; H, 3.98 N, 7.91. Found: C, 54.26; H, 3.68; N, 7.65.

reactant | 5-bromo-1-(4-hydroxyphenyl)-2-methyl-1H-indole-3-carbaldehyde | 0.5 mmol, 0.16 g | BrC=1C=C2C(=C(N(C2=CC1)C1=CC=C(C=C1)O)C)C=O | C16H12BrNO2
reactant | hydroxylamine hydrochloride | 1.4 mmol, 0.10 g | Cl.NO
reactant | methanol | 10 mL | CO | CH4O
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
product | 5-Bromo-1-(4-hydroxyphenyl)-2-methyl-1H-indole -3-carbaldehyde oxime | 66% | BrC=1C=C2C(=C(N(C2=CC1)C1=CC=C(C=C1)O)C)C=NO | C16H13BrN2O2
